US05602170
Synthesis of 5-(2,2-dicarboxyethenyl)-2,2':5',2"-terthiophene
1.30 g of 5-formyl-2,2':5',2"-terthiophene, 1.04 g of malonic acid, 20 ml of pyridine and 0.1 ml of piperidine were heated at 50°-60° C. for 2 hours. 100 ml of water was added after reaction was completed. The mixture was acidified by diluted HCl and the precipitate collected was recrystallized from ethanol to give reddish crystal (1.43 g). The melting point thereof was 202°-203° C. The yield was 84%.

reactant | 5-formyl-2,2':5',2"-terthiophene | 1.30 g | C(=O)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C13H8OS3
reactant | malonic acid | 1.04 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2,2-dicarboxyethenyl)-2,2':5',2"-terthiophene | 1.43 g, yield was 84% | C(=O)(O)C(=CC1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1)C(=O)O | C16H10O4S3
